US06867211B2
b) Ethyl 3-(2-thienyl)-2-(4-pyridyl)-6,7-dihydro-5H-pyrrolizine-1-carboxylate
N-(2-Thienylcarbonyl)proline (4.69 g, 21 mmol) is dissolved in acetic anhydride (15 ml) at 60° C. (15 min), ethyl 2-bromo-3-(4-pyridyl)propenoate (6.40 g, 25 mmol) is added to the clear solution and the mixture is heated at 90° C. for 16 h, whereupon a tlc sample (Al2O3-ethyl acetate/THF 9:1) no longer indicates starting material. The cooled reaction mixture is treated with ethyl acetate (120 ml) and intensively stirred with saturated Na2CO3 solution (80 ml) for 15 min and diluted with water (50 ml). The ethyl acetate phase is separated off, the water phase is extracted with a further 3 portions of ethyl acetate (150 ml), and these organic phases are combined, washed with saturated Na2CO3 soln (50 ml) and, after drying (K2CO3 sicc.), concentrated in vacuo. 8 g are obtained as a residue, which is dissolved in a little ethyl acetate and purified by cc (Al2O3-ethyl acetate/n-hexane 2:1).

reactant | N-(2-Thienylcarbonyl)proline | 21 mmol, 4.69 g | S1C(=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C10H11NO3S
reactant | ethyl 2-bromo-3-(4-pyridyl)propenoate | 25 mmol, 6.40 g | BrC(C(=O)OCC)=CC1=CC=NC=C1 | C10H10BrNO2
reactant | Na2CO3 | 80 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-(2-thienyl)-2-(4-pyridyl)-6,7-dihydro-5H-pyrrolizine-1-carboxylate | S1C(=CC=C1)C1=C(C(=C2CCCN12)C(=O)OCC)C1=CC=NC=C1 | C19H18N2O2S
